US07504411B2
To a solution of (S)-2-benzylpiperazine (48 mg, 0.27 mmol) in tetrahydrofuran (5 mL) was added triethylamine (0.10 mL, 0.74 mmol) and then 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one (55 mg, 0.248 mmol) at room temperature. After refluxing for 24 h, the resulting mixture was concentrated in vacuo. The residue was partitioned between dichloromethane and saturated sodium bicarbonate aqueous solution, and the organic layer was dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by a reverse phase chromatography eluting 0.05% TFA in water-acetonitrile to afford (S)-2-(3-benzylpiperazin-1-yl)-3-methyl-6-(4-pyridyl) pyrimidin-4-one (73 mg 81%), which was treated with 4 N hydrogen chloride in ethyl acetate to yield its dihydrochloride salt as a yellow powder.

reactant | (S)-2-benzylpiperazine | 0.27 mmol, 48 mg | C(C1=CC=CC=C1)[C@@H]1NCCNC1 | C11H16N2
reactant | triethylamine | 0.74 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one | 0.248 mmol, 55 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-2-(3-benzylpiperazin-1-yl)-3-methyl-6-(4-pyridyl) pyrimidin-4-one | 73 mg, 81% | C(C1=CC=CC=C1)[C@H]1CN(CCN1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C21H23N5O
